### PR TITLE
[Merged by Bors] - feat(Order/DenselyOrderedLocallyFinite): linear locally finite dense orders are trivial

### PR DESCRIPTION
**Pull request by pechersky**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #27170
- [x] depends on: #27171

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Order/DenselyOrderedLocallyFinite.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+lemma LocallyFiniteOrder.denselyOrdered_iff_subsingleton :
+    DenselyOrdered X ↔ Subsingleton X := by
+  refine ⟨fun H ↦ ?_, fun h ↦ h.instDenselyOrdered⟩
+  rw [← not_nontrivial_iff_subsingleton, nontrivial_iff_lt]
+  rintro ⟨a, b, hab⟩
+  induction hs : Finset.Icc a b using Finset.strongInduction generalizing b with | H i ih
+  subst hs
+  obtain ⟨c, hac, hcb⟩ := exists_between hab
+  refine ih _ ?_ c hac rfl
+  exact Finset.Icc_ssubset_Icc_right (hac.trans hcb).le le_rfl hcb
```
Comment (plp127) [inline Mathlib/Order/DenselyOrderedLocallyFinite.lean]: Perhaps this part can be factored out into a separate lemma, since it works on all preorders (not just linear orders)?

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 2]
```diff
@@ -251,6 +253,14 @@ theorem Ioc_disjoint_Ioc_of_le {d : α} (hbc : b ≤ c) : Disjoint (Ioc a b) (Io
   disjoint_left.2 fun _ h1 h2 ↦ not_and_of_not_left _
     ((mem_Ioc.1 h1).2.trans hbc).not_gt (mem_Ioc.1 h2)
 
+lemma _root_.subsingleton_of_denselyOrdered_of_lt [DenselyOrdered α] {a b : α} (h : a < b) :
+    Subsingleton α := by
```
Comment (plp127) [inline Mathlib/Order/Interval/Finset/Basic.lean]: The conclusion `Subsingleton α` can be changed to `False` (which is stronger) without changing the proof.

File: Mathlib/Order/DenselyOrderedLocallyFinite.lean
Comment (YaelDillies) [inline Mathlib/Order/DenselyOrderedLocallyFinite.lean:1]: What about calling this new file `Mathlib.Order.Interval.Finset.DenselyOrdered`?

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 3]
```diff
@@ -555,3 +556,61 @@ lemma WithZero.mulArchimedean_iff {α} [CommGroup α] [PartialOrder α] :
...
+lemma denselyOrdered_multiplicative_iff : DenselyOrdered (Multiplicative X) ↔ DenselyOrdered X :=
+  Iff.rfl
+
+instance [DenselyOrdered X] : DenselyOrdered (Multiplicative X) :=
+  denselyOrdered_multiplicative_iff.2 ‹_›
+instance [DenselyOrdered X] : DenselyOrdered (Additive X) :=
+  denselyOrdered_additive_iff.2 ‹_›
+
+lemma denselyOrdered_withZero_iff {M : Type*} [Preorder M] [NoMinOrder M] :
+    DenselyOrdered (WithZero M) ↔ DenselyOrdered M := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]: Does that not come from the (possibly missing)  `WithBot` instance?

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 4]
```diff
@@ -555,3 +556,61 @@ lemma WithZero.mulArchimedean_iff {α} [CommGroup α] [PartialOrder α] :
...
+  · simpa [WithZero.exists, WithZero.forall, exists_lt] using DenselyOrdered.dense
+
+instance {X : Type*} [Preorder X] [NoMinOrder X] [DenselyOrdered X] :
+    DenselyOrdered (WithZero X) :=
+  denselyOrdered_withZero_iff.mpr ‹_›
+
+lemma Int.not_denselyOrdered : ¬ DenselyOrdered ℤ :=
+  (LinearOrderedAddCommGroup.discrete_iff_not_denselyOrdered ℤ).mp ⟨.refl _⟩
+
+lemma not_denselyOrdered_withZeroInt : ¬ DenselyOrdered ℤᵐ⁰ :=
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]:
```suggestion
lemma not_denselyOrdered_withZero_int : ¬ DenselyOrdered ℤᵐ⁰ :=
```

File: Mathlib/GroupTheory/ArchimedeanDensely.lean [hunk 5]
```diff
@@ -555,3 +556,61 @@ lemma WithZero.mulArchimedean_iff {α} [CommGroup α] [PartialOrder α] :
...
+  (LinearOrderedCommGroupWithZero.discrete_iff_not_denselyOrdered _).mp ⟨.refl _⟩
+
+lemma denselyOrdered_withZero_set_iff_subsingleton {X : Type*} [LinearOrder X]
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/ArchimedeanDensely.lean]:
```suggestion
lemma WithZero.denselyOrdered_iff_subsingleton {X : Type*} [LinearOrder X]
```
no?

File: Mathlib/Order/Basic.lean [hunk 6]
```diff
@@ -1257,9 +1257,9 @@ theorem denselyOrdered_orderDual [LT α] : DenselyOrdered αᵒᵈ ↔ DenselyOr
 
 /-- Any ordered subsingleton is densely ordered. Not an instance to avoid a heavy subsingleton
 typeclass search. -/
-lemma Subsingleton.instDenselyOrdered {X : Type*} [Subsingleton X] [Preorder X] :
+lemma Subsingleton.instDenselyOrdered {X : Type*} [Subsingleton X] [LT X] :
     DenselyOrdered X :=
-  ⟨fun _ _ h ↦ (not_lt_of_subsingleton h).elim⟩
+  ⟨fun _ _ h ↦ ⟨_, h.trans_eq (Subsingleton.elim _ _), h⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Basic.lean]: What's the point of this change?

File: Mathlib/GroupTheory/ArchimedeanDensely.lean (hunk 5 above)
Comment (pechersky) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean]: I went with `WithZero.denselyOrdered_set_iff_subsingleton` to be consistent across the board

File: Mathlib/Order/Basic.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Order/Basic.lean]: It's more general, no longer needs `Preorder X`.

Comment (YaelDillies) [reply Mathlib/Order/Basic.lean]: Sure, but what's the application?

File: Mathlib/GroupTheory/ArchimedeanDensely.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/ArchimedeanDensely.lean]: Consistent with?

File: Mathlib/Order/Basic.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Order/Basic.lean:1262]: 🤷

Comment (pechersky) [reply Mathlib/Order/Basic.lean]: Many of the existing lemmas/instances/iffs about DenselyOrdered are on LT also, like for WithBot, WithTop, OrderDual, etc. This is making it consistent.

Comment (YaelDillies) [reply Mathlib/Order/Basic.lean]: I am not sure this is a good thing. Atomising typeclasses is pushing people towards useless generality

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Order/Interval/Finset/Basic.lean [hunk 7]
```diff
@@ -72,7 +72,8 @@ theorem nonempty_Ioc : (Ioc a b).Nonempty ↔ a < b := by
 @[aesop safe apply (rule_sets := [finsetNonempty])]
 alias ⟨_, Aesop.nonempty_Ioc_of_lt⟩ := nonempty_Ioc
 
--- TODO: This is nonsense. A locally finite order is never densely ordered
+-- TODO: This is nonsense. A locally finite order is never densely ordered;
+-- See `subsingleton_of_denselyOrdered_of_lt`
```
Comment (bryangingechen) [inline Mathlib/Order/Interval/Finset/Basic.lean]: This declaration doesn't seem to exist?

**Comment by bryangingechen** [comment]
Thanks!
bors r+
